US07556911B2
In a solution composed of 15.7 g of 2,4-difluoroacetophenone, 35 g of trimethyl ortho-formate and 15 g of methanol, 0.96g of p-toluenesulfonic acid was added, and reacted at 40° C. to 45° C. for 2 hours. This was added to an aqueous solution of 5% by mass sodium hydrogen carbonate, which was then extracted with ethyl acetate. An extract was washed with water, and dried on Na2SO4. Then, ethyl acetate was concentrated to yield 18.2 g of 1-(1,1-dimethoxyethyl)-2,4-difluorobenzene. It was confirmed that the 1-(1,1-dimethoxyethyl)-2,4-difluorobenzene had NMR data of (CDCl3, δppm) 1.62 (s, 3H), 3.9 (s, 6H), 6.74-6.9 (m, 2H), 7.56-7.7 (m, 1H) by NMR (supplied from Varian Technologies Japan Limited).

reactant | 2,4-difluoroacetophenone | 15.7 g | CC(=O)C1=C(C=C(C=C1)F)F | C8H6F2O
reactant | trimethyl ortho-formate | 35 g | C(OC)(OC)OC | C4H10O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | p-toluenesulfonic acid | 0.96g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 15 g | CO | CH4O
product | 1-(1,1-dimethoxyethyl)-2,4-difluorobenzene | 18.2 g | COC(C)(OC)C1=C(C=C(C=C1)F)F | C10H12F2O2
